US03962224
Phenyllithium (45 ml of a 2.3 M solution in 7:3 benzene-ether) in added to a dry-ice-cooled, stirring solution of diphenyl N-benzylidene-aminomethylphosphonate (35.1 g) in anhydrous tetrahydrofuran (500 ml). After having been stirred for 15 minutes at -78° under a nitrogen atmosphere, the solution is treated dropwise over 1 hour with p-nitrobenzyl chloroformate (10.8 g) in tetrahydrofuran (100 ml). The resulting solution is stirred an additional 2 hours at -78°, then allowed to warm to 5° over a period of 30 minutes. Evaporation of the solvent under reduced pressure leaves a residue which is partitioned between ethyl ether (500 ml) and 0.5 pH 3 phosphate buffer (200 ml). The aqueous phase is separated and extracted with ethyl ether (2 × 100 ml). The combined ethereal solution is washed with saturated brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. Chromatography of the residue on silica gel affords p-nitrobenzyl N-benzylidene-α-amino-diphenylphosphonoacetate as well as starting material.

reactant | Phenyllithium | C1(=CC=CC=C1)[Li]
reactant | dry-ice | C(=O)=O | CO2
reactant | diphenyl N-benzylidene-aminomethylphosphonate | 35.1 g | C(C1=CC=CC=C1)=NCP(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C20H18NO3P
reactant | p-nitrobenzyl chloroformate | 10.8 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | p-nitrobenzyl N-benzylidene-α-amino-diphenylphosphonoacetate | C(C1=CC=CC=C1)=NC(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])P(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C28H23N2O7P
